US04517191
A mixture of 10.0 g (0.0405 m) of ethyl 1-amino-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylate, 1.94 g (0.0486 m) of sodium hydroxide and 350 ml of water was heated on a steam bath for two hours. The resulting solution was filtered, cooled and neutralized with 3 ml of acetic acid while stirring. The solid product was collected by filtration, washed with water and recrystallized by dissolving it in 100 ml of boiling dimethylformamide and adding 100 ml of ether to the cooled solution. There was obtained 7.8 g of 1-amino-1,4-dihydro-7-methyl-4-oxo-1,8naphthyridine-3-carboxylic acid, colorless needles, m.p. 239°-240° C.

reactant | ethyl 1-amino-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylate | 10.0 g | NN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)OCC | C12H13N3O3
reactant | sodium hydroxide | 1.94 g | [OH-].[Na+]
solvent | water | 350 ml | O | H2O
product | 1-amino-1,4-dihydro-7-methyl-4-oxo-1,8naphthyridine-3-carboxylic acid | 7.8 g | NN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)O | C10H9N3O3
